US07049315B2
N-(6,7-Methylenedioxyquinolin-4-yl)-N-[2-(N,N-dimethylamino)-1-methylethyl)-2-iodo-4,5-dimethoxybenzamide.
Prepared from N′-(6,7-Methylenedioxyquinolin-4-yl)-N,N-dimethylpropane- 1,2-diamine (273 mg, 1.0 mol) in 60.4% yield with a reaction time of 12 h, from the acid chloride prepared using 4.8 mmol of oxalyl chloride and 1.2 mmol of 2-iodo-5,6-dimethoxybenzoic acid. Compound 7b had: mp 82-84° C.; IR (KBr) 1648, 3415; HRMS calcd for C24H26IN3O5H 564.0917; found 564.0997

reactant | N′-(6,7-Methylenedioxyquinolin-4-yl)-N,N-dimethylpropane- 1,2-diamine | 1.0 mol, 273 mg | C1OC=2C=C3C(=CC=NC3=CC2O1)NC(CN(C)C)C | C15H19N3O2
reactant | oxalyl chloride | 4.8 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-iodo-5,6-dimethoxybenzoic acid | 1.2 mmol | IC1=C(C(=O)O)C(=C(C=C1)OC)OC | C9H9IO4
reactant | KBr | [K+].[Br-]
product | N-(6,7-Methylenedioxyquinolin-4-yl)-N-[2-(N,N-dimethylamino)-1-methylethyl)-2-iodo-4,5-dimethoxybenzamide | 60.4% yield | C1OC=2C=C3C(=CC=NC3=CC2O1)N(C(C1=C(C=C(C(=C1)OC)OC)I)=O)C(CN(C)C)C | C24H26IN3O5
